* NGSPICE file created from nand_dcdl.ext - technology: sky130A

.subckt sky130_fd_sc_hd__inv_2 VPB VNB VPWR VGND Y A
X0 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
X1 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X3 VPWR A Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
.ends

.subckt sky130_fd_sc_hd__nand2_1 VPB VNB VGND VPWR A Y B
X0 VPWR A Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X1 Y A a_113_47# VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 a_113_47# B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X3 Y B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
.ends

.subckt sky130_ef_sc_hd__decap_12 VGND VPWR VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=4.73
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=4.73
.ends

.subckt sky130_fd_sc_hd__decap_4 VGND VPWR VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=1.05
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=1.05
.ends

.subckt sky130_fd_sc_hd__decap_3 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=0.59
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=0.59
.ends

.subckt sky130_fd_sc_hd__decap_8 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=2.89
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=2.89
.ends

.subckt sky130_fd_sc_hd__buf_2 VPWR VGND X A VPB VNB
X0 VPWR a_27_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.265 pd=2.53 as=0.135 ps=1.27 w=1 l=0.15
X1 X a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.149 ps=1.325 w=1 l=0.15
X2 VPWR A a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.149 pd=1.325 as=0.1664 ps=1.8 w=0.64 l=0.15
X3 X a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.097 ps=0.975 w=0.65 l=0.15
X4 VGND a_27_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.17225 pd=1.83 as=0.08775 ps=0.92 w=0.65 l=0.15
X5 VGND A a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.097 pd=0.975 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__conb_1 LO HI VPB VNB VGND VPWR
X0 VPWR HI sky130_fd_pr__res_generic_po w=0.48 l=0.045
X1 LO VGND sky130_fd_pr__res_generic_po w=0.48 l=0.045
.ends

.subckt nand_dcdl A Q[0] Q[1] Q[2] Q[3] VGND VPWR Y
Xcell1.inv1.core_inv VPWR VGND VPWR VGND cell1.inv1_output Q[1] sky130_fd_sc_hd__inv_2
Xcell2.nand2_1.core_nand VPWR VGND VGND VPWR s3 cell2.nand_cell_1 cell2.inv1_output
+ sky130_fd_sc_hd__nand2_1
XFILLER_0_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
Xcell0.nand2_2.core_nand VPWR VGND VGND VPWR A cell0.nand_cell_2 Q[0] sky130_fd_sc_hd__nand2_1
XFILLER_0_29 VGND VPWR VPWR VGND sky130_fd_sc_hd__decap_4
XFILLER_3_17 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_29 VGND VPWR VPWR VGND sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_1_Right_1 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_0_Left_6 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xcell3.nand2_2.core_nand VPWR VGND VGND VPWR A cell3.nand_cell_2 Q[3] sky130_fd_sc_hd__nand2_1
Xcell1.nand2_3.core_nand VPWR VGND VGND VPWR cell1.nand_cell_1 s1 cell1.nand_cell_2
+ sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_5_Right_5 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xcell3.inv1.core_inv VPWR VGND VPWR VGND cell3.inv1_output Q[3] sky130_fd_sc_hd__inv_2
XFILLER_1_23 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
Xcell0.nand2_1.core_nand VPWR VGND VGND VPWR s1 cell0.nand_cell_1 cell0.inv1_output
+ sky130_fd_sc_hd__nand2_1
Xcell0.inv1.core_inv VPWR VGND VPWR VGND cell0.inv1_output Q[0] sky130_fd_sc_hd__inv_2
XFILLER_4_25 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_0_Right_0 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_1_Left_7 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xcell1.nand2_2.core_nand VPWR VGND VGND VPWR A cell1.nand_cell_2 Q[1] sky130_fd_sc_hd__nand2_1
Xcell3.nand2_1.core_nand VPWR VGND VGND VPWR _0_ cell3.nand_cell_1 cell3.inv1_output
+ sky130_fd_sc_hd__nand2_1
XFILLER_4_17 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XFILLER_4_29 VGND VPWR VPWR VGND sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_4_Right_4 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
X_2_ VPWR VGND _2_/X Y VPWR VGND sky130_fd_sc_hd__buf_2
X_1_ _0_ _1_/HI VPWR VGND VGND VPWR sky130_fd_sc_hd__conb_1
Xcell2.nand2_3.core_nand VPWR VGND VGND VPWR cell2.nand_cell_1 s2 cell2.nand_cell_2
+ sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_2_Left_8 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xcell2.inv1.core_inv VPWR VGND VPWR VGND cell2.inv1_output Q[2] sky130_fd_sc_hd__inv_2
XFILLER_0_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
Xcell1.nand2_1.core_nand VPWR VGND VGND VPWR s2 cell1.nand_cell_1 cell1.inv1_output
+ sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_5_Left_11 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_2_25 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_3_Right_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_5_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_17 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XFILLER_2_29 VGND VPWR VPWR VGND sky130_fd_sc_hd__decap_4
Xcell0.nand2_3.core_nand VPWR VGND VGND VPWR cell0.nand_cell_1 Y cell0.nand_cell_2
+ sky130_fd_sc_hd__nand2_1
Xcell2.nand2_2.core_nand VPWR VGND VGND VPWR A cell2.nand_cell_2 Q[2] sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_3_Left_9 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_5_29 VGND VPWR VPWR VGND sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_4_Left_10 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_2_Right_2 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xcell3.nand2_3.core_nand VPWR VGND VGND VPWR cell3.nand_cell_1 s3 cell3.nand_cell_2
+ sky130_fd_sc_hd__nand2_1
XFILLER_5_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
.ends

