* NGSPICE file created from tdc_top.ext - technology: sky130A

.subckt sky130_fd_sc_hd__decap_3 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=0.59
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=0.59
.ends

.subckt sky130_fd_sc_hd__clkbuf_16 VNB VPB VGND VPWR A X
X0 VPWR A a_110_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X1 VPWR a_110_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X2 X a_110_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X3 X a_110_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X4 VPWR a_110_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X5 VPWR a_110_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.265 pd=2.53 as=0.14 ps=1.28 w=1 l=0.15
X6 a_110_47# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.265 ps=2.53 w=1 l=0.15
X7 a_110_47# A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X8 VGND a_110_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X9 X a_110_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X10 VGND a_110_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X11 a_110_47# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X12 VGND A a_110_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X13 VGND a_110_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.05775 pd=0.695 as=0.0588 ps=0.7 w=0.42 l=0.15
X14 VPWR a_110_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X15 X a_110_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X16 VGND A a_110_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X17 VGND a_110_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.1113 pd=1.37 as=0.0588 ps=0.7 w=0.42 l=0.15
X18 VPWR a_110_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1375 pd=1.275 as=0.14 ps=1.28 w=1 l=0.15
X19 VGND a_110_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X20 X a_110_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.1375 ps=1.275 w=1 l=0.15
X21 a_110_47# A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.1113 ps=1.37 w=0.42 l=0.15
X22 VPWR A a_110_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X23 VPWR a_110_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X24 VPWR a_110_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X25 VGND a_110_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X26 X a_110_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X27 VGND a_110_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X28 VGND a_110_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X29 X a_110_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X30 X a_110_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X31 X a_110_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X32 X a_110_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X33 VPWR a_110_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X34 X a_110_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.15
X35 X a_110_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X36 X a_110_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X37 X a_110_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X38 X a_110_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.0588 ps=0.7 w=0.42 l=0.15
X39 X a_110_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.05775 ps=0.695 w=0.42 l=0.15
.ends

.subckt sky130_ef_sc_hd__decap_12 VGND VPWR VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=4.73
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=4.73
.ends

.subckt sky130_fd_sc_hd__buf_2 VPWR VGND X A VPB VNB
X0 VPWR a_27_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.265 pd=2.53 as=0.135 ps=1.27 w=1 l=0.15
X1 X a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.149 ps=1.325 w=1 l=0.15
X2 VPWR A a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.149 pd=1.325 as=0.1664 ps=1.8 w=0.64 l=0.15
X3 X a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.097 ps=0.975 w=0.65 l=0.15
X4 VGND a_27_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.17225 pd=1.83 as=0.08775 ps=0.92 w=0.65 l=0.15
X5 VGND A a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.097 pd=0.975 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__decap_4 VGND VPWR VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=1.05
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=1.05
.ends

.subckt sky130_fd_sc_hd__bufinv_8 VNB VPB VGND VPWR A Y
X0 VPWR a_215_47# Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X1 VGND a_109_47# a_215_47# VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X2 VGND a_109_47# a_215_47# VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X3 VGND a_215_47# Y VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X4 Y a_215_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X5 VGND a_215_47# Y VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X6 Y a_215_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X7 Y a_215_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X8 Y a_215_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X9 Y a_215_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X10 VPWR a_215_47# Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X11 Y a_215_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X12 VGND a_215_47# Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X13 VGND a_215_47# Y VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X14 VPWR a_109_47# a_215_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X15 a_215_47# a_109_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X16 VPWR a_215_47# Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X17 a_215_47# a_109_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X18 VPWR a_109_47# a_215_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
X19 Y a_215_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X20 VPWR a_215_47# Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X21 a_109_47# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.26 ps=2.52 w=1 l=0.15
X22 Y a_215_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X23 a_109_47# A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt sky130_fd_sc_hd__inv_2 VPB VNB VPWR VGND Y A
X0 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
X1 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X3 VPWR A Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
.ends

.subckt sky130_fd_sc_hd__decap_6 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=1.97
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=1.97
.ends

.subckt sky130_fd_sc_hd__decap_8 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=2.89
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=2.89
.ends

.subckt sky130_fd_sc_hd__clkbuf_1 VGND VPWR X A VPB VNB
X0 VPWR a_75_212# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.11455 pd=1.08 as=0.2054 ps=2.1 w=0.79 l=0.15
X1 a_75_212# A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1352 pd=1.56 as=0.0754 ps=0.81 w=0.52 l=0.15
X2 a_75_212# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2054 pd=2.1 as=0.11455 ps=1.08 w=0.79 l=0.15
X3 VGND a_75_212# X VNB sky130_fd_pr__nfet_01v8 ad=0.0754 pd=0.81 as=0.1352 ps=1.56 w=0.52 l=0.15
.ends

.subckt sky130_fd_sc_hd__dfxtp_1 Q CLK D VPB VNB VPWR VGND
X0 Q a_1059_315# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X1 a_891_413# a_193_47# a_634_159# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0684 pd=0.74 as=0.0989 ps=0.995 w=0.36 l=0.15
X2 a_561_413# a_27_47# a_466_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07665 pd=0.785 as=0.06825 ps=0.745 w=0.42 l=0.15
X3 VPWR CLK a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0864 pd=0.91 as=0.1664 ps=1.8 w=0.64 l=0.15
X4 Q a_1059_315# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X5 a_381_47# D VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.05775 pd=0.695 as=0.1092 ps=1.36 w=0.42 l=0.15
X6 VGND a_634_159# a_592_47# VNB sky130_fd_pr__nfet_01v8 ad=0.12095 pd=1.085 as=0.0696 ps=0.765 w=0.42 l=0.15
X7 VPWR a_891_413# a_1059_315# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.27 ps=2.54 w=1 l=0.15
X8 a_466_413# a_193_47# a_381_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.06825 pd=0.745 as=0.05775 ps=0.695 w=0.42 l=0.15
X9 VPWR a_634_159# a_561_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.178875 pd=1.26 as=0.07665 ps=0.785 w=0.42 l=0.15
X10 a_634_159# a_466_413# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0989 pd=0.995 as=0.12095 ps=1.085 w=0.64 l=0.15
X11 a_634_159# a_466_413# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1095 pd=1.075 as=0.178875 ps=1.26 w=0.75 l=0.15
X12 a_975_413# a_193_47# a_891_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0882 pd=0.84 as=0.0567 ps=0.69 w=0.42 l=0.15
X13 VGND a_1059_315# a_1017_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.066 ps=0.745 w=0.42 l=0.15
X14 a_193_47# a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.0567 ps=0.69 w=0.42 l=0.15
X15 a_891_413# a_27_47# a_634_159# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.1095 ps=1.075 w=0.42 l=0.15
X16 a_592_47# a_193_47# a_466_413# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0696 pd=0.765 as=0.0621 ps=0.705 w=0.36 l=0.15
X17 VPWR a_1059_315# a_975_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1113 pd=1.37 as=0.0882 ps=0.84 w=0.42 l=0.15
X18 a_1017_47# a_27_47# a_891_413# VNB sky130_fd_pr__special_nfet_01v8 ad=0.066 pd=0.745 as=0.0684 ps=0.74 w=0.36 l=0.15
X19 a_193_47# a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1664 pd=1.8 as=0.0864 ps=0.91 w=0.64 l=0.15
X20 a_466_413# a_27_47# a_381_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0621 pd=0.705 as=0.0813 ps=0.83 w=0.36 l=0.15
X21 VGND a_891_413# a_1059_315# VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X22 a_381_47# D VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0813 pd=0.83 as=0.1092 ps=1.36 w=0.42 l=0.15
X23 VGND CLK a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__buf_1 VGND VPWR X A VPB VNB
X0 VPWR A a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.11455 pd=1.08 as=0.2054 ps=2.1 w=0.79 l=0.15
X1 X a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1352 pd=1.56 as=0.0754 ps=0.81 w=0.52 l=0.15
X2 X a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2054 pd=2.1 as=0.11455 ps=1.08 w=0.79 l=0.15
X3 VGND A a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0754 pd=0.81 as=0.1352 ps=1.56 w=0.52 l=0.15
.ends

.subckt tdc_top VGND VPWR clk_in event_in rst tdc_out[0] tdc_out[1] tdc_out[2]
XPHY_EDGE_ROW_4_Left_13 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_6_Right_6 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xclkbuf_1_1__f_clk_in VGND VPWR VGND VPWR clknet_0_clk_in clknet_1_1__leaf_clk_in
+ sky130_fd_sc_hd__clkbuf_16
XFILLER_3_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_0_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_8_Left_17 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xclkbuf_0_clk_in VGND VPWR VGND VPWR clk_in clknet_0_clk_in sky130_fd_sc_hd__clkbuf_16
X_29_ VPWR VGND _29_/X clknet_1_0__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
XFILLER_0_49 VGND VPWR VPWR VGND sky130_fd_sc_hd__decap_4
XFILLER_3_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
X_28_ VPWR VGND _28_/X clknet_1_0__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
Xclkload0 VGND VPWR VGND VPWR clknet_1_0__leaf_clk_in clkload0/Y sky130_fd_sc_hd__bufinv_8
XFILLER_1_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
X_27_ VPWR VGND _27_/X clknet_1_1__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
X_26_ VPWR VGND _26_/X clknet_1_0__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
X_25_ VPWR VGND _25_/X clknet_1_0__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_1_Right_1 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
X_24_ VPWR VGND _24_/X clknet_1_1__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_3_Left_12 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
X_23_ VPWR VGND _23_/X clknet_1_1__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
Xclkbuf_1_0__f_clk_in VGND VPWR VGND VPWR clknet_0_clk_in clknet_1_0__leaf_clk_in
+ sky130_fd_sc_hd__clkbuf_16
X_00__1 VPWR VGND VPWR VGND net5 clknet_1_1__leaf_clk_in sky130_fd_sc_hd__inv_2
X_22_ VPWR VGND _22_/X clknet_1_1__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
XFILLER_4_21 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_6
XFILLER_4_10 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_7_Left_16 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_4_45 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
X_21_ VPWR VGND _21_/X clknet_1_0__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
XFILLER_4_33 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_0_Left_9 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_8_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
Xinput1 VGND VPWR net1 event_in VPWR VGND sky130_fd_sc_hd__clkbuf_1
X_20_ VPWR VGND _20_/X clknet_1_0__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
X_01_ net4 net1 net5 VPWR VGND VPWR VGND sky130_fd_sc_hd__dfxtp_1
XPHY_EDGE_ROW_0_Right_0 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_1_49 VGND VPWR VPWR VGND sky130_fd_sc_hd__decap_4
XFILLER_1_37 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_15 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XFILLER_7_26 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_2_Left_11 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_7_38 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_4_Right_4 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_4_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_6_Left_15 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_8_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_8_Right_8 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_2_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
X_19_ VPWR VGND _19_/X clknet_1_1__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
XFILLER_2_33 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_45 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
X_18_ VPWR VGND _18_/X clknet_1_0__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
X_34_ VGND VPWR net3 net4 VPWR VGND sky130_fd_sc_hd__clkbuf_1
XPHY_EDGE_ROW_1_Left_10 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_0_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
X_33_ VGND VPWR net2 net4 VPWR VGND sky130_fd_sc_hd__clkbuf_1
XFILLER_5_47 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_3_Right_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_2_25 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_2_14 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_6
X_32_ VPWR VGND _32_/X clknet_1_1__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
X_31_ VPWR VGND _31_/X clknet_1_0__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
XFILLER_8_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
X_30_ VPWR VGND _30_/X clknet_1_1__leaf_clk_in VPWR VGND sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_5_Left_14 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Right_7 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_5_39 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XFILLER_8_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput2 VGND VPWR tdc_out[0] net2 VPWR VGND sky130_fd_sc_hd__buf_1
XFILLER_6_40 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_7_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xoutput3 VGND VPWR tdc_out[1] net3 VPWR VGND sky130_fd_sc_hd__buf_1
XFILLER_6_32 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XFILLER_6_10 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput4 VGND VPWR tdc_out[2] net4 VPWR VGND sky130_fd_sc_hd__buf_1
XPHY_EDGE_ROW_2_Right_2 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_6_22 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_6
XFILLER_5_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
.ends

